US06583135B2
Preparation of 3-Benzyl-10-phenoxy-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole
A solution of 3-benzoyl-10-phenoxy-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.55 g, 1.45 mmol) in tetrahydrofuran (30.0 mL) and lithium aluminum hydride (0.56 g, 14.5 mmol) was reacted in a manner similar to Preparation 11 to afford 0.47 g (87%) of colorless solid as the desired product: mp 168-170° C. (CH2Cl2/hexane); 1H NMR (400 MHz, DMSO-d6) δ 11.0; 7.34-7.21, 7.10, 7.01, 6.94, 6.84, 6.47, 3.69, 2.89-2.87, 2.84-2.81, 2.78-2.75, 2.65-2.62; 13C NMR (100.6 MHz, DMSO-d6) δ 158.5, 147.8, 139.2, 137.4, 136.9, 1295.6, 128.4, 128.1, 126.7, 121.8, 120.5, 120.3, 116.4, 110.2, 109.3, 107.4, 60.2, 55.4, 53.3, 27.6, 24.8; MS (EI) m/z 368 (M+); HRMS cacld for C25H24N2O+H: 369.1967, found: 369.1961; Anal. Calcd. for C25H24N2O: C, 81.49; H, 6.57; N, 7.60. Found: C, 81.12; H, 6.70; N, 7.53.

reactant | 3-benzoyl-10-phenoxy-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 1.45 mmol, 0.55 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)OC1=CC=CC=C1 | C25H22N2O2
reactant | lithium aluminum hydride | 14.5 mmol, 0.56 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 30.0 mL | O1CCCC1 | C4H8O
product | 3-Benzyl-10-phenoxy-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole | C(C1=CC=CC=C1)N1CCC=2NC=3C=CC=C(C3C2CC1)OC1=CC=CC=C1 | C25H24N2O
